US05571821
4-Benzylamino-N-(3,4-dimethyl-5-isoxazolyl)benzenesulfonamide
To a mixture of 4-amino-N-(3,4-dimethyl-5-isoxazolyl)benzenesulfonamide (1.0 g, 3.74 mmol) and sodium bicarbonate (310 mg, 4.48 mmol) suspended in ethanol was added benzyl bromide (770 mg, 4.48 mmol). After 10 min of stirring at 70° C., the mixture became homogeneous. The reaction was stirred at 70° C. for 2 h and the solvent and volatiles were evaporated under reduced pressure. The residue was dissolved in ethyl acetate and washed with brine (2×25 ml). After drying over magnesium sulfate, evaporation of the solvent left a viscous yellow oil which was chromatographed on silica gel to give 960 mg (72% yield) clear, colorless oil. Further purification by HPLC gave a white solid, m.p. 47°-8° C.

reactant | 4-amino-N-(3,4-dimethyl-5-isoxazolyl)benzenesulfonamide | 3.74 mmol, 1.0 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NO1)C)C | C11H13N3O3S
reactant | sodium bicarbonate | 4.48 mmol, 310 mg | C([O-])(O)=O.[Na+]
reactant | benzyl bromide | 4.48 mmol, 770 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | C(C)O | C2H6O
product | 4-Benzylamino-N-(3,4-dimethyl-5-isoxazolyl)benzenesulfonamide | 72% yield | C(C1=CC=CC=C1)NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NO1)C)C | C18H19N3O3S
